US07652008B2
(7R*,8S*)-7-hydroxy-4,6,6-trimethyl-8-[(2-phenylethyl)amino]-4,6,7,8-tetrahydro-1,5-dioxa-4-aza-anthracene-3-one
To a solution of t-butyl(2-phenylethyl)(7R*,8S*)-[7-hydroxy-4,6,6-trimethyl-3-oxo-4,6,7,8-tetrahydro-1,5-dioxa-4-aza-anthracene-8-yl] carbamate (115 mg, 0.24 mmol) in ether (2.2 mL), 4 mol/L hydrogen chloride-dioxane (500 μL) was added at room temperature, and the resulting mixture was stirred at room temperature for 5 hours and then at 50° C. for 30 minutes. Upon the completion of the reaction, saturated aqueous sodium hydrogencarbonate solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=1/2) and the aimed product was obtained (yield: 76%).

reactant | t-butyl(2-phenylethyl)(7R*,8S*)-[7-hydroxy-4,6,6-trimethyl-3-oxo-4,6,7,8-tetrahydro-1,5-dioxa-4-aza-anthracene-8-yl] carbamate | 0.24 mmol, 115 mg | C(N)(O[C@@H]1[C@H](C(OC=2C(=C3N(C(C(OC3=CC12)CCC1=CC=CC=C1)=O)C)C(C)(C)C)(C)C)O)=O | C27H34N2O6
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ether | 2.2 mL | CCOCC | C4H10O
solvent | hydrogen chloride dioxane | 4 mol/L, 500 μL | Cl.O1CCOCC1
product | (7R*,8S*)-7-hydroxy-4,6,6-trimethyl-8-[(2-phenylethyl)amino]-4,6,7,8-tetrahydro-1,5-dioxa-4-aza-anthracene-3-one | yield: 76% | O[C@H]1C(OC=2C=C3N(C(COC3=CC2[C@@H]1NCCC1=CC=CC=C1)=O)C)(C)C | C22H26N2O4
